US07544826B2
A mixture of 2.4 g (10.75 mmol) of 2-methyl-3-(8-quinolyl)cyclopent-2-enone and 100 ml of tetrahydrofuran was cooled to −90° C., and 7.2 ml of phenyllithium (1.8 M in cyclohexane/diethyl ether, 12.9 mmol) were subsequently added while stirring. The mixture was stirred for a further one hour at this temperature and 1 ml of ethyl acetate was then added. The mixture was then allowed to warm to room temperature while stirring, refluxed for 10 minutes, cooled to room temperature and 100 ml of water were then added. The aqueous phase was then separated off from the organic phase and the aqueous phase was extracted twice with diethyl ether. The organic phases were combined, dried over magnesium sulfate, filtered and the solvent was distilled off. The residue was dissolved in 5 ml of toluene and then admixed with 80 ml of hexane. The precipitate formed was filtered off and dried. This gave 1.874 g (6.22 mmol, 57.9% yield) of 3-hydroxy-2-methyl-3-phenyl-1-(8-quinolyl)cyclopentene.

reactant | 2-methyl-3-(8-quinolyl)cyclopent-2-enone | 10.75 mmol, 2.4 g | CC=1C(CCC1C=1C=CC=C2C=CC=NC12)=O | C15H13NO
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | phenyllithium | 12.9 mmol, 1.8 M, 7.2 ml | C1(=CC=CC=C1)[Li]
reactant | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 3-hydroxy-2-methyl-3-phenyl-1-(8-quinolyl)cyclopentene | 6.22 mmol, 1.874 g, 57.9% yield | OC1(C(=C(CC1)C=1C=CC=C2C=CC=NC12)C)C1=CC=CC=C1 | C21H19NO
